* Z:\mnt\design.r\spice\examples\1170.asc
V1 IN 0 5
C1 N004 0 1µ
R1 N003 N004 1K
R2 N002 0 1.24K
R3 OUT N002 10.7K
D1 N001 OUT MBRS360
L1 IN N001 150µ Rser=0.02 Rpar=5000
XU1 N003 N002 0 N001 IN LT1170
C2 OUT 0 500µ Rser=0.05
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 15m startup
.lib LT1170.sub
.backanno
.end
